US05236940
The procedure is as in Example 1, starting with 4-(1,1,2,2-tetrafluoroethoxy)aniline (10 g), potassium thiocyanate 18.5 g), bromine (2.4 cc) and acetic acid (80 cc). After purification on a column of silica (1 kg; particle size: 0.063-0.200 mm), eluting with a mixture of cyclohexane and ethyl acetate (50:50 by volume), and recrystallization in toluene (22 cc), 6- 1,1,2,2-tetrafluoroethoxy)-2-benzothiazolamine (2 g), m.p. 161° C., is obtained.

reactant | 4-(1,1,2,2-tetrafluoroethoxy)aniline | 10 g | FC(C(F)F)(OC1=CC=C(N)C=C1)F | C8H7F4NO
reactant | potassium thiocyanate | 18.5 g | [S-]C#N.[K+]
reactant | bromine | 2.4 cc | BrBr | Br2
solvent | acetic acid | 80 cc | C(C)(=O)O | C2H4O2
product | 2-benzothiazolamine | 2 g | S1C(=NC2=C1C=CC=C2)N | C7H6N2S
